US04596819
A stirred suspension of 1.58 g (0.0051 mol) of (S)-phenylmethyl-[1-[(2 amino-2-oxoethoxy)methyl]-3-methylbutyl]carbamate and 0.3 g of 20% palladium on carbon in a 100 ml of methanol is exposed to hydrogen gas for 15 minutes, the suspension is purged with nitrogen gas, filtered, and the solvent evaporated in vacuo at 30° C. The residue is dissolved in 100 ml of dichloromethane, the solution is cooled to 0° C. and 1.3 g (0.0051 mol) of carbobenzyloxyproline, 0.78 g (0.0051 mol) of 1-hyroxybenzotriazole and 1.1 g (0.0051 mol) of dicyclohexylcarbodiimide are added. The mixture is allowed to reach room temperature and stirred for 14 hours, filtered, the solvent evaporated in vacuo and the residue dissolved in 200 ml of dichloromethane and washed successively with a 5% aqueous solution of sodium carbonate, 2×200 ml, 10% aqueous solution of citric acid, 2×200 ml and a saturated aqueous solution of sodium chloride, 2×200 ml. The dichloromethane layer is separated, dried over sodium sulfate, evaporated in vacuo and the residue purified by chromatography using silica gel and eluting with dichloromethane-methanol (95:5) to give [S-(R*,R*)]-phenylmethyl 2[[[1-[(2-amino-2-oxoethoxy)methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylate, 1.1 g; mp 146°-148°; [α]D25 -55.3° (c 1.31, methanol).

reactant | (S)-phenylmethyl-[1-[(2 amino-2-oxoethoxy)methyl]-3-methylbutyl]carbamate | 0.0051 mol, 1.58 g | C1(=CC=CC=C1)COC(N[C@@H](CC(C)C)COCC(=O)N)=O | C16H24N2O4
reactant | hydrogen | [H][H] | H2
reactant | carbobenzyloxyproline | 0.0051 mol, 1.3 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | 1-hyroxybenzotriazole | 0.0051 mol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.0051 mol, 1.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
product | phenylmethyl 2[[[1-[(2-amino-2-oxoethoxy)methyl]-3-methylbutyl]amino]carbonyl]-1-pyrrolidinecarboxylate | NC(COCC(CC(C)C)NC(=O)C1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C21H31N3O5
